US08426411B2
Step M: 3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol
A scalemic mixture enriched in 1-((1S,2R,4S)-4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (9.58 g, 17.8 mmol) was dissolved in ethanol (177 mL). Concd HCl (1.75 mL, 21.3 mmol) was added dropwise. After about 1 h, EtOAc (700 mL) was added. The organic mixture was washed with saturated aqueous NaHCO3 (2×120 mL), brine (120 mL), dried over anhydrous MgSO4, filtered and concd under reduced pressure. The residue was purified using silica gel chromatography eluting with 30-100% EtOAc in DCM to give a scalemic mixture enriched in (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (6.73 g, 89%): LC/MS (Table 1, Method b) Rt=2.11 min; MS m/z: 426 (M+H)+.

reactant | 1-((1S,2R,4S)-4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentyl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 17.8 mmol, 9.58 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)CC | C27H37N5O3SSi
reactant | HCl | 21.3 mmol, 1.75 mL | Cl | ClH
reactant | EtOAc | 700 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 177 mL | C(C)O | C2H6O
solvent | (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 6.73 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)O | C21H23N5O3S
product | 3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)O | C21H23N5O3S
